US05298668
1,4-di-(2-Methylphenyl)-3-(2-methylphenylamino)-1H-1,2,4-triazolium hydroxide, inner salt VI
A similar reaction of phenylhydrazine with di-(2methylphenyl)carbodiimide and subsequent cyclization of the resulting condensate with formic acid resulted in 1-phenyl-4-(2-methylphenyl)-3-(2-methylphenylamino)-1H-1,2,4-triazolium hydroxide, inner salt V.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | di-(2methylphenyl)carbodiimide | CC1=C(C=CC=C1)N=C=NC1=C(C=CC=C1)C | C15H14N2
reactant | formic acid | C(=O)O | CH2O2
reactant | 1-phenyl-4-(2-methylphenyl)-3-(2-methylphenylamino)-1H-1,2,4-triazolium hydroxide | [OH-].C1(=CC=CC=C1)[NH+]1N=C(N(C1)C1=C(C=CC=C1)C)NC1=C(C=CC=C1)C
product | 1,4-di-(2-Methylphenyl)-3-(2-methylphenylamino)-1H-1,2,4-triazolium hydroxide | [OH-].CC1=C(C=CC=C1)[NH+]1N=C(N(C1)C1=C(C=CC=C1)C)NC1=C(C=CC=C1)C | InChI=1S/C23H24N4.H2O/c1-17-10-4-7-13-20(17)24-23-25-27(22-15-9-6-12-19(22)3)16-26(23)21-14-8-5-11-18(21)2;/h4-15H,16H2,1-3H3,(H,24,25);1H2
